US07119221B2
To a solution of tert-butyl 1-(5-chloropentyl)-1-cyclopropanecarboxylate (31.5 g, 128 mmol) in 2- butanone (150 mL) was added NaI (24.9 g, 166 mmol). The reaction mixture was stirred under reflux for 24 h, diluted with heptane (220 mL) and filtered through a layer of silica (˜2 cm) in a glassfilter. The residue was eluted with a mixture of heptane and EtOAc (3:1, 5×100 mL). The combined filtrate and elutes were evaporated in vacuo to give tert-butyl 1-(5-iodopentyl)-1-cyclopropanecarboxylate (42.3 g, 99%) as a slightly yellow liquid. 1H NMR (CDCl3): δ=3.18 (t, J=7.1 Hz, 2H), 1.82 (quintet, J=7.1 Hz, 2H), 1.48–1.33 (m, 6H), 1.42 (s, 9H), 1.10 (dd, J=6.8 Hz, Hz, 2H), 0.58 (dd, J=6.6, 3.9 Hz, 2H). 13C NMR (CDCl3): δ=174.0, 79.9, 34.1, 33.6, 30.8, 28.2 (3×), 26.8, 24.3, 15.4 (2×), 7.4. HRMS calcd for Cl3H23IO2 (M+): 338.0743, found: 338.0743.

reactant | tert-butyl 1-(5-chloropentyl)-1-cyclopropanecarboxylate | 128 mmol, 31.5 g | ClCCCCCC1(CC1)C(=O)OC(C)(C)C | C13H23ClO2
reactant | NaI | 166 mmol, 24.9 g | [Na+].[I-]
solvent | 2- butanone | 150 mL | CC(CC)=O | C4H8O
solvent | heptane | 220 mL | CCCCCCC | C7H16
product | tert-butyl 1-(5-iodopentyl)-1-cyclopropanecarboxylate | 42.3 g, 99% | ICCCCCC1(CC1)C(=O)OC(C)(C)C | C13H23IO2
